US06774138B2
5-Ethyl-2-(phenylethynyl)pyrimidine (730 mg, 3.7 mmol) was dissolved in CH2Cl2 (3.0 mL) and treated with HCl in diethyl ether (4.1 mL of a 1N solution, 4.1 mmol). Upon addition of the HCl solution a solid precipitated from the solution. The mixture was diluted with diethyl ether (2 mL) and the supernatant decanted. The resultant solid was dried under high vacuum at 50° C. to afford 5-ethyl-2-(phenylethynyl)pyrimidine hydrochloride (450 mg, 49% yield) as an orange solid. M.p. 101-104° C. 1H NMR (CD3OD, 300 MHz) δ 8.75 (s, 2H), 7.58-7.55 (m, 2H), 7.41-7.32 (m, 3H), 2.67 (q, J=7.6 Hz, 2H), 1.21 (t, J=7.6 Hz, 3H).

reactant | 5-Ethyl-2-(phenylethynyl)pyrimidine | 3.7 mmol, 730 mg | C(C)C=1C=NC(=NC1)C#CC1=CC=CC=C1 | C14H12N2
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-ethyl-2-(phenylethynyl)pyrimidine hydrochloride | 450 mg, 49% yield | Cl.C(C)C=1C=NC(=NC1)C#CC1=CC=CC=C1 | InChI=1S/C14H12N2.ClH/c1-2-12-10-15-14(16-11-12)9-8-13-6-4-3-5-7-13;/h3-7,10-11H,2H2,1H3;1H
